US08957080B2
Synthesis of N-[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]-2-cyano-4-ethoxy-4-methyl-pent-2-enamide
To a sealed tube was added N-[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]-2-cyano-acetamide (105 mg, 0.24 mmol), piperidine (0.01 mL, 0.12 mmol), 2-ethoxy-2-methyl-propanal (0.07 mL, 0.47 mmol) and ethanol (4 mL). The tube was capped, and heated to 85° C. for 60 hrs. The reaction was cooled and evaporated. The resulting crude oil was dissolved in DCM (30 mL) and washed with water (30 mL) and brine, then dried (MgSO4), filtered and concentrated. The resulting material was purified by Isolera (10 g column, 3%-7% MeOH/DCM) to obtain 10 mg (8%) of the title compound. MS (pos. ion) m/z: 544 (M+1).

reactant | N-[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]-2-cyano-acetamide | 0.24 mmol, 105 mg | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H](C)NC(CC#N)=O | C23H20FN7O2
reactant | piperidine | 0.12 mmol, 0.01 mL | N1CCCCC1 | C5H11N
reactant | 2-ethoxy-2-methyl-propanal | 0.47 mmol, 0.07 mL | C(C)OC(C=O)(C)C | C6H12O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N-[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]-2-cyano-4-ethoxy-4-methyl-pent-2-enamide | 10 mg, 8% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H](C)NC(C(=CC(C)(C)OCC)C#N)=O | C29H30FN7O3
